US09334290B2
A solution of 2-amino-N-(3-bromo-2-methylphenyl)-5-fluorobenzamide (0.893 g, 2.76 mmol) and triphosgene (0.984 g, 3.32 mmol) in THF (30 mL) was stirred at room temperature for 2 h. The mixture was carefully treated with saturated aqueous NaHCO3 and stirred until gas evolution ceased. The mixture was extracted twice with DCM. The combined organic phases were washed with water, dried and concentrated. The residue was triturated with DCM to give a white solid, isolated by filtration. The filtrate was concentrated and subjected to column chromatography on silica gel (40 g), eluting with EtOAc-hexanes (gradient from 0-80%), to provide additional solid. The two solids were combined to provide 3-(3-bromo-2-methylphenyl)-6-fluoroquinazoline-2,4(1H,3H)-dione as a white solid (845 mg, 87% yield). Mass spectrum m/z 349, 351 (M+H)+.

reactant | 2-amino-N-(3-bromo-2-methylphenyl)-5-fluorobenzamide | 2.76 mmol, 0.893 g | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=C(C=C1)F | C14H12BrFN2O
reactant | triphosgene | 3.32 mmol, 0.984 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)-6-fluoroquinazoline-2,4(1H,3H)-dione | 845 mg, 87% yield | BrC=1C(=C(C=CC1)N1C(NC2=CC=C(C=C2C1=O)F)=O)C | C15H10BrFN2O2
